US04220761
A solution of ethyl 2-(2-aminothiazol-4-yl)-2-(2-benzoyloxyethoxyimino)acetate (syn isomer, 8.5 g.) in a mixture of 1 N aqueous sodium hydroxide (35 ml.), methanol (40 ml.) and tetrahydrofuran (40 ml.) was stirred at 40° C. for 9 hrs. and at room temperature for 12 hrs. The reaction mixture was treated in a conventional manner to give 2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetic acid (syn isomer, 3.3 g.).

reactant | ethyl 2-(2-aminothiazol-4-yl)-2-(2-benzoyloxyethoxyimino)acetate | 8.5 g | NC=1SC=C(N1)C(C(=O)OCC)=NOCCOC(C1=CC=CC=C1)=O | C16H17N3O5S
reactant | methanol | 40 ml | CO | CH4O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | sodium hydroxide | 1 N, 35 ml | [OH-].[Na+]
product | 2-(2-aminothiazol-4-yl)-2-(2-hydroxyethoxyimino)acetic acid | 3.3 g | NC=1SC=C(N1)C(C(=O)O)=NOCCO | C7H9N3O4S
